US05462952
2-[(3-Trifluoromethylphenyl)amino]-benzene thioamide
Lawesson's Reagent (4.55 g, 11.26 mmoles) is added to a colorless solution of 2-[(3-trifluoromethylphenyl)amino]-benzamide (5.22 g, 18.64 mmoles) in 100 ml of tetrahydrofuran at room temperature. The resulting mixture is stirred under nitrogen for one hour, and then heated at reflux for 2.5 hours. The solution is concentrated in vacuo, and purified by flash chromatography with a gradient of 5:1 to 3:1 hexane/ethyl acetate as eluant, to provide 3.01 g (55%) of a bright yellow solid 2-[(3-trifluoromethylphenyl)amino]-benzene thioamide, mp 106°-108° C.

reactant | Lawesson's Reagent | 11.26 mmoles, 4.55 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | 2-[(3-trifluoromethylphenyl)amino]-benzamide | 18.64 mmoles, 5.22 g | FC(C=1C=C(C=CC1)NC1=C(C(=O)N)C=CC=C1)(F)F | C14H11F3N2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-[(3-Trifluoromethylphenyl)amino]-benzene thioamide | 3.01 g, 55% | FC(C=1C=C(C=CC1)NC1=C(C=CC=C1)C(N)=S)(F)F | C14H11F3N2S
